US07968538B2
N-(3,5-Dichlorobenzyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine hydrochloride
A mixture of tert-butyl 4-(3-(3,5-dichlorobenzylamino)-4-(methylsulfonyl)phenyl)-piperazine-1-carboxylate (0.5 mmol), trifluoroacetic acid (5 mL) and dichloromethane (10 mL) was stirred for 3 h and concentrated in vacuo. The residue was dissolved in dichloromethane; this solution was washed with aqueous NaHCO3 solution, dried over Na2SO4 and concentrated in vacuo. The yellow solid residue was dissolved in dichloromethane (1 mL), reacted with 1 N HCl in ether (1 mL) and concentrated in vacuo to yield the title compound as a yellow solid (59%). 1H NMR (400 MHz, CDCl3): δ 9.37 (br, 1H), 7.62 (d, 1H), 7.28 (s, 1H), 7.22 (s, 2H), 6.24 (dd, 1H), 5.71 (d, 1H), 4.43 (d, 2H), 3.30 (m, 4H), 2.93 (m, 4H). MS (ESI) m/z: Calculated: 450.81; Observed: 415.4 (M+H+ corresponding to its free base).

reactant | tert-butyl 4-(3-(3,5-dichlorobenzylamino)-4-(methylsulfonyl)phenyl)-piperazine-1-carboxylate | 0.5 mmol | ClC=1C=C(CNC=2C=C(C=CC2S(=O)(=O)C)N2CCN(CC2)C(=O)OC(C)(C)C)C=C(C1)Cl | C23H29Cl2N3O4S
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(3,5-Dichlorobenzyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine hydrochloride | 59% | Cl.ClC=1C=C(CNC2=C(C=CC(=C2)N2CCNCC2)S(=O)(=O)C)C=C(C1)Cl | InChI=1S/C18H21Cl2N3O2S.ClH/c1-26(24,25)18-3-2-16(23-6-4-21-5-7-23)11-17(18)22-12-13-8-14(19)10-15(20)9-13;/h2-3,8-11,21-22H,4-7,12H2,1H3;1H
